US05864043
4'-[(2-n-Butyl-6-(N-(2-trifluoromethylphenylamino-carbonyl)-methylamino)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 5 from tert.butyl 4'-[(2-n-butyl-6-(N-(2-trifluoromethylphenyl-aminocarbonyl)-methylamino)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid/methylene chloride.

reactant | tert.butyl 4'-[(2-n-butyl-6-(N-(2-trifluoromethylphenyl-aminocarbonyl)-methylamino)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(C(=O)NC2=C(C=CC=C2)C(F)(F)F)C | C38H39F3N4O3
reactant | trifluoroacetic acid methylene chloride | FC(C(=O)O)(F)F.C(Cl)Cl
product | 4'-[(2-n-Butyl-6-(N-(2-trifluoromethylphenylamino-carbonyl)-methylamino)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)N(C(=O)NC2=C(C=CC=C2)C(F)(F)F)C | C34H31F3N4O3
